US07595327B2
(3S,4R)-1-tert-Butyl 3-methyl 4-(benzyl((R)-1-phenylethyl)amino)-3-methylpiperidine-1,3-dicarboxylate (4.777 g, 10.24 mmol) was taken up in 100 mL of 4.4% formic acid in methanol. Palladium on Carbon (10%, 1.059 g) was added and the reaction mixture was stirred under a nitrogen atmosphere for 2 h at room temperature. Filtration through celite gave a colorless solution that was concentrated to give a colorless oil. The oil was combined with 4-(benzyloxy)benzene-1-sulfonyl chloride (4.377 g, 15.48 mmol) and equivalent volumes of CH2Cl2 and saturated sodium bicarbonate, and the resultant biphasic mixture was stirred vigorously overnight. The organic layer was separated and the remaining aqueous phase was washed with CH2Cl2 (3×). the organic extracts were combined, dried over Na2SO4 and concentrated to give a beige solid that was purified by chromatography on silica gel eluting with 30% ethyl acetate/hexanes to give (3S,4R)-1-tert-butyl 3-methyl 4-(4-(benzyloxy)phenylsulfonamido)-3-methylpiperidine-1,3-dicarboxylate as a white solid (4.523 g, 8.72 mmol, 85%). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.14 (s, 3 H) 1.37-1.48 (m, 11H) 1.78 (s, 1H) 2.02-2.05 (m, 3H) 2.51 (s, 1H) 3.08-3.16 (m, 1H) 3.65 (s, 3H) 4.48 (s, 1H) 5.11 (s, 2H) 5.65 (d, J=9.60 Hz, 1H) 7.01-7.06 (m, 2H) 7.31-7.43 (m, 6H) 7.78-7.82 (m, 2H).

reactant | (3S,4R)-1-tert-Butyl 3-methyl 4-(benzyl((R)-1-phenylethyl)amino)-3-methylpiperidine-1,3-dicarboxylate | 10.24 mmol, 4.777 g | C(C1=CC=CC=C1)N([C@H]1[C@](CN(CC1)C(=O)OC(C)(C)C)(C(=O)OC)C)[C@H](C)C1=CC=CC=C1 | C28H38N2O4
reactant | 4-(benzyloxy)benzene-1-sulfonyl chloride | 15.48 mmol, 4.377 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | formic acid | 100 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
catalyst | Palladium on Carbon | 1.059 g | [Pd] | Pd
product | (3S,4R)-1-tert-butyl 3-methyl 4-(4-(benzyloxy)phenylsulfonamido)-3-methylpiperidine-1,3-dicarboxylate | 8.72 mmol, 4.523 g, 85% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](CN(CC1)C(=O)OC(C)(C)C)(C(=O)OC)C | C26H34N2O7S
